.INCLUDE magnz.hl

* F = current controlled current, E voltage controlled current
* http://web.stanford.edu/class/ee133/handouts/general/spice_ref.pdf


.SUBCKT mm ET ST Kf Kr ES E S ES0


  VKf Kf 0 DC 3.3
  VKr Kr 0 DC 3.3
  VET ET 0 DC 3.3
  VST ST 0 DC 3.3
  VES0 ES0 0 DC 3.3

  *VE E 0 DC 3.3
  *VS S 0 DC 3.3

  VES ES 0 DC 3.3

  BES ES 0 I=0.5+I(VES0)
  BE E 0 I=I(VET)-I(VES)
  BS S 0 I=I(VST)-I(VES)

  *BES ES 0 I=I(VKf)*I(VS)*I(VE)
  *CRET ES 0 1
  *BDEG 0 ES  I=I(VKr)*I(VES)

  *XNOISE CNN CR inoise
  *XCLMP CR C iclamp

.ENDS mm



.SUBCKT iout A B
  RX A B 0
.ENDS iout


.SUBCKT iin A B
  RX A B 0
.ENDS iin
